US07858717B2
N-Bromosuccinimide (98 g, 0.55 mol) and 0.5 g benzoyl peroxide were added to solution of 2-bromo-4-tert-butyl-1-methylbenzene (113.5 g, 0.5 mol) in CCl4 (500 ml). The resulting mixture was refluxed for 6 h, cooled to 20° C. and filtered. The resulting filtrate was evaporated and used without further purification. A solution of sodium diethylmethylmalonate, prepared from 104.5 g (0.6 mol) diethylmethylmalonate and 40.8 g of sodium ethylate in 500 ml abs. ethanol was treated dropwise with 2-bromo-1-(bromomethyl)-4-tert-butylbenzene (0.5 mol). The resulting mixture was refluxed for 4 h, treated with a solution of NaOH (50 g, 1.25 mol) in water (60 ml) and refluxed for 2 h, then poured into water (11), and finally washed with toluene (2×100 ml). The aqueous solution was treated with 130 ml of 35% HCl. The resulting mixture was extracted with chloroform (4×250 ml), the organic phase was dried over MgSO4 and evaporated. The residue was heated to 160-170° C. for 15 min yielding the product (92 g, total yield from 1-tert-butyl-4-methylbenzene 60%).

reactant | N-Bromosuccinimide | 0.55 mol, 98 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 2-bromo-4-tert-butyl-1-methylbenzene | 0.5 mol, 113.5 g | BrC1=C(C=CC(=C1)C(C)(C)C)C | C11H15Br
reactant | sodium diethylmethylmalonate | C(C)OC(C(C(=O)OCC)C)=O.[Na]
reactant | diethylmethylmalonate | 0.6 mol, 104.5 g | C(C)OC(C(C(=O)OCC)C)=O | C8H14O4
reactant | sodium ethylate | 40.8 g | CC[O-].[Na+]
reactant | 2-bromo-1-(bromomethyl)-4-tert-butylbenzene | 0.5 mol | BrC1=C(C=CC(=C1)C(C)(C)C)CBr | C11H14Br2
reactant | NaOH | 1.25 mol, 50 g | [OH-].[Na+]
solvent | CCl4 | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | 60 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 1-tert-butyl-4-methylbenzene | 60% | C(C)(C)(C)C1=CC=C(C=C1)C | C11H16
